US09029545B2
1,1-Dimethylethyl 4-{3-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridin-2-yl}-1H-pyrazole-1-carboxylate
To a stirred solution of N-[3-bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide (Description 70) (880 mg, 1.96 mmol) in acetonitrile (30 mL) was added Boc2O (0.50 mL, 2.15 mmol), DMAP (96 mg, 0.78 mmol) and Et3N (0.41 mL, 2.94 mmol) and the mixture stirred at RT for ca. 45 min. The mixture was then concentrated and taken-up in water (50 mL) and DCM (50 mL). The organic layer was separated and the aqueous was re-extracted with DCM (30 mL×2). The combined organics were dried and concentrated. The residue was purified via normal phase chromatography, eluting with 0-50% ethyl acetate in DCM, to give the title compound (1.03 g). LCMS (A) m/z: 549/551 [M+1]+, Rt 1.35 min (acidic).

reactant | N-[3-bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]benzenesulfonamide | 1.96 mmol, 880 mg | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C=2C=NNC2 | C17H13BrN4O2S2
reactant | Boc2O | 2.15 mmol, 0.50 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 2.94 mmol, 0.41 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.78 mmol, 96 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,1-Dimethylethyl 4-{3-bromo-6-methyl-4-[(phenylsulfonyl)amino]thieno[2,3-b]pyridin-2-yl}-1H-pyrazole-1-carboxylate | 1.03 g | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C22H21BrN4O4S2
